US08487108B2
A mixture of (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)ethyl)piperidine-1-carboxylate (0.410 g, 1.07 mmol), DMAP (0.380 g), DIPEA (4 mL), and methyl chloroformate (0.960 g) in CH2Cl2 was stirred at rt for 20 h. After the reaction mixture was evaporated under reduced pressure, the crude product was purified by reversed-phase HPLC to afford (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(methoxycarbonylamino)ethoxy)ethyl)piperidine-1-carboxylate. MS ESI +ve m/z 465 (M+Na).

reactant | (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)ethyl)piperidine-1-carboxylate | 1.07 mmol, 0.410 g | NCCO[C@@](C)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H31ClN2O3
reactant | DIPEA | 4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0.960 g | ClC(=O)OC | C2H3ClO2
catalyst | DMAP | 0.380 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(methoxycarbonylamino)ethoxy)ethyl)piperidine-1-carboxylate | ClC=1C=C(C=CC1)[C@](C)(OCCNC(=O)OC)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H33ClN2O5
